US05716958
(1) Ethyl 2-chloronicotinate
25.7 g of 2-chloronicotinic acid was dissolved in 350 ml of dimethylformamide followed by the addition of 23.6 g of potassium carbonate and 15.8 ml of ethyl iodide and the solution was stirred for 18 hours at room temperature. Water was added to the reaction solution followed by extraction with ethyl acetate (200 ml×3). After washing with water and saturated brine, the reaction solution was dried with anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the residue was purified with silica gel column chromatography (elution solvent: hexane/ethyl acetate=1/1) to obtain 29.7 g of the target compound. Yield: 98%

reactant | 2-chloronicotinic acid | 25.7 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | potassium carbonate | 23.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 15.8 ml | C(C)I | C2H5I
reactant | Water | O | H2O
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-chloronicotinate | 29.7 g, Yield: 98% | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
